US07368578B2
A mixture of 4-chloromethyl-5-methyl-2-phenyl-1,3-thiazole (1.0 g), potassium carbonate (0.57 g), vanillin (0.62 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 3-methoxy-4-[(5-methyl-2-phenyl-1,3-thiazol-4-yl)methoxy]benzaldehyde as colorless crystals (1.28 g, 92%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 133-134° C.

reactant | 4-chloromethyl-5-methyl-2-phenyl-1,3-thiazole | 1.0 g | ClCC=1N=C(SC1C)C1=CC=CC=C1 | C11H10ClNS
reactant | potassium carbonate | 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | vanillin | 0.62 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-methoxy-4-[(5-methyl-2-phenyl-1,3-thiazol-4-yl)methoxy]benzaldehyde | 1.28 g, 92% | COC=1C=C(C=O)C=CC1OCC=1N=C(SC1C)C1=CC=CC=C1 | C19H17NO3S
